US04631286
3,4-Dihydro-9-(4,4-diphenylbutylamino)acridin-1(2H)-one
In a mixture consisting of 480 ml of dichloromethane and 320 ml of 50% NaOH were combined 8.00g of 9-amino-3,4-dihydroacridin-1(2H)-one, 68 g (6 eq) of 1-mesyloxy-4,4-diphenylbutane and 2.56 g (0.20 eq) of tetrabutylammonium hydrogensulfate used as a phase transfer catalyst. The biphasic mixture was jacket cooled to 3° C. and was then mechanically stirred for 3 days. As no further reaction occurred, the reaction mixture was diluted with water and the organic phase was separated. Analysis by thin layer chromatography indicated a 1:1 mixture of the end product and the starting material. The dichloromethane layer was evaporated to a gum. The gum was diluted with dichloromethane and mixed with 1:1 alumina/sand to immobilize it as a solid for Soxhlet extraction. The dichloromethane was evaporated and the solid was put into a Soxhlet extraction thimble and extracted with hexane for 4 hours. Since no further extraction occurred after 4 hours, the hexane solution was evaporated to an oil. The oil was chromatographed over silica gel (EtOAc) and the resultant solid rechromatographed through alumina (Et2O) to yield a solid. The solid was recrystallized from Et2O/hexanes to yield 1.22 g (8%) of product, melting point 86°-88° C.

reactant | dichloromethane | 480 ml | ClCCl | CH2Cl2
reactant | NaOH | 320 ml | [OH-].[Na+]
reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 8.00g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | 1-mesyloxy-4,4-diphenylbutane | 68 g, 6 eq | S(=O)(=O)(C)OCCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20O3S
catalyst | tetrabutylammonium hydrogensulfate | 2.56 g, 0.20 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 3,4-Dihydro-9-(4,4-diphenylbutylamino)acridin-1(2H)-one | 1.22 g, 8% | C1(=CC=CC=C1)C(CCCNC=1C2=CC=CC=C2N=C2CCCC(C12)=O)C1=CC=CC=C1 | C29H28N2O
